US07491710B2
Stage IV: Preparation of 5-(dimethoxyphosphoryl)-3-iodoindazole-1-carboxylic acid tert-butyl ester.
851.7 mg (3 eq; 3.903 mmol) of di-tert-butyl dicarbonate, 39.7 mg (0.25 eq; 0.325 mmol) of 4-dimethylaminopyridine and 544 μl (3 eq; 3.903 mmol) of triethylamine are added to a solution of 458 mg (1 eq; 1.301 mmol) of (3-iodo-1H-indazol-5-yl)phosphonic acid dimethyl ester in solution in 10 ml of dichloromethane. The medium is stirred at ambient temperature overnight. The reaction mixture is washed with 20 ml of water and then 10 ml of a saturated sodium chloride solution. The aqueous phase is treated with 4 times 20 ml of ethyl acetate. The organic phase is dried over magnesium sulfate and then filtered and the solvent is evaporated off under reduced pressure in a rotary evaporator to obtain 415 mg of crude product.

reactant | di-tert-butyl dicarbonate | 3.903 mmol, 851.7 mg, 3 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 3.903 mmol, 544 μl, 3 eq | C(C)N(CC)CC | C6H15N
reactant | (3-iodo-1H-indazol-5-yl)phosphonic acid dimethyl ester | 1.301 mmol, 458 mg, 1 eq | COP(OC)(=O)C=1C=C2C(=NNC2=CC1)I | C9H10IN2O3P
catalyst | 4-dimethylaminopyridine | 0.325 mmol, 39.7 mg, 0.25 eq | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-(dimethoxyphosphoryl)-3-iodoindazole-1-carboxylic acid tert-butyl ester | 415 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)P(=O)(OC)OC)I | C14H18IN2O5P
